US04935431
(c) 6-Butyryl-7-chloro-3-methoxythieno[3,2-b]pyridine
3-Methoxy-6-butyrylthieno[3,2-b]pyridin-7(4H)-one (3 g) and phosphorus oxychloride (10 ml) were heated under reflux for one hour. The reaction mixture was poured onto ice water (100 g) stirred for 30 minutes and then basified with 40% sodium hydroxide solution cooling with ice, then extracted with chloroform (3×100 ml). The chloroform extracts were combined dried over magnesium sulphate, filtered and evaporated under reduced pressure to give a brown solid, 3.1 g, m.p. 76°-78°.

reactant | 3-Methoxy-6-butyrylthieno[3,2-b]pyridin-7(4H)-one | 3 g | COC1=CSC2=C1NC=C(C2=O)C(CCC)=O | C12H13NO3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Butyryl-7-chloro-3-methoxythieno[3,2-b]pyridine | C(CCC)(=O)C=1C(=C2C(=NC1)C(=CS2)OC)Cl | C12H12ClNO2S
